### PR TITLE
[Merged by Bors] - chore: various fixes for the flexible linter

### PR DESCRIPTION
**Pull request by grunweg**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Condensed/Light/Epi.lean [hunk 1]
```diff
@@ -113,7 +113,7 @@ variable {R : Type u} [Ring R] {M N : ℕ → LightCondMod.{u} R} (f : ∀ n, M
 instance : Epi (Limits.Pi.map f) := by
   have : Limits.Pi.map f = (cone f).π.app ⟨0⟩ := rfl
   rw [this]
-  exact epi_π_app_zero_of_epi R (isLimit f) (fun n ↦ by simp; infer_instance)
+  exact epi_π_app_zero_of_epi R (isLimit f) (fun n ↦ by simpa using by infer_instance)
```
Comment (b-mehta) [inline Mathlib/Condensed/Light/Epi.lean:116]:
```suggestion
  exact epi_π_app_zero_of_epi R (isLimit f) (fun n ↦ by simpa using inferInstance)
```
untested!

File: Mathlib/Data/FinEnum.lean [hunk 2]
```diff
@@ -266,6 +266,7 @@ instance pfunFinEnum (p : Prop) [Decidable p] (α : p → Type) [∀ hp, FinEnum
     FinEnum (∀ hp : p, α hp) :=
   if hp : p then
     ofList ((toList (α hp)).map fun x _ => x) (by intro x; simpa using ⟨x hp, rfl⟩)
-  else ofList [fun hp' => (hp hp').elim] (by intro; simp; ext hp'; cases hp hp')
+  else ofList [fun hp' => (hp hp').elim]
+    (by intro; simp only [mem_cons, not_mem_nil, or_false]; ext hp'; cases hp hp')
```
Comment (b-mehta) [inline Mathlib/Data/FinEnum.lean:270]: optional: is there some `ext_iff` lemma we can add to the `simp only` set here which makes it work?

File: Mathlib/Probability/Kernel/Condexp.lean [hunk 3]
```diff
@@ -95,7 +95,7 @@ alias condexpKernel_apply_eq_condDistrib := condExpKernel_apply_eq_condDistrib
 instance : IsMarkovKernel (condExpKernel μ m) := by
   rcases isEmpty_or_nonempty Ω with h | h
   · exact ⟨fun a ↦ (IsEmpty.false a).elim⟩
-  · simp [condExpKernel, h]; infer_instance
+  · simpa [condExpKernel, h] using by infer_instance
```
Comment (b-mehta) [inline Mathlib/Probability/Kernel/Condexp.lean:98]:
```suggestion
  · simpa [condExpKernel, h] using inferInstance
```
as before, optional and untested!

**Review by b-mehta — APPROVED** [review]
Other than my occasional comments above, I'm very happy with this PR, with the sole exception of `HNNExtension.lean`, where quite a few of the proofs got longer. I wonder if there's an alternate fix for that file, which resolves both the adaptation note and the non-terminal simp. (That's not to say I oppose the changes in that file, only that it seems there's a nicer fix!)

File: Mathlib/Probability/Kernel/Condexp.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/Probability/Kernel/Condexp.lean:98]: Doesn't work either (would've been nice otherwise!)

**Comment by grunweg** [comment]
I don't see an obvious way to improve HNNExtension: there might be one, and I hope somebody else searches harder and finds it.

File: Mathlib/Data/Real/Pi/Irrational.lean [hunk 4]
```diff
@@ -123,8 +123,7 @@ private lemma recursion (n : ℕ) :
     I (n + 2) θ * θ ^ 2 =
       2 * (n + 2) * (2 * n + 3) * I (n + 1) θ - 4 * (n + 2) * (n + 1) * I n θ := by
   rw [recursion' (n + 1)]
-  simp
-  ring!
```
Comment (jcommelin) [inline Mathlib/Data/Real/Pi/Irrational.lean:127]: Isn't this a pattern that the flexible linter should allow?
Or otherwise, why is your suggested replacement more robust?

Comment (grunweg) [reply Mathlib/Data/Real/Pi/Irrational.lean:127]: @adomani Do you remember why the flexible linter was configured this way?

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Data/Real/Pi/Irrational.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Data/Real/Pi/Irrational.lean]: I've reverted the change now - let's not get this PR held up on this.

**Comment by grunweg** [comment]
@jcommelin Are there any other changes you'd like me to make? If not, shall we merge this (and continue discussion about the flexible linter elsewhere)?

File: Mathlib/Data/FinEnum.lean (hunk 2 above)
Comment (Ruben-VandeVelde) [inline Mathlib/Data/FinEnum.lean:270]:
```suggestion
  else ofList [fun hp' => (hp hp').elim] (by simp [funext_iff, hp])
```

File: Mathlib/Data/List/Sigma.lean [hunk 5]
```diff
@@ -492,7 +492,7 @@ theorem kerase_append_left {a} :
   | [], _, h => by cases h
   | s :: l₁, l₂, h₁ => by
     if h₂ : a = s.1 then simp [h₂]
-    else simp at h₁; rcases h₁ with h₁ | h₁ <;>
+    else simp only [keys_cons, mem_cons] at h₁; rcases h₁ with h₁ | h₁ <;>
       [exact absurd h₁ h₂; simp [h₂, kerase_append_left h₁]]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/List/Sigma.lean:496]:
```suggestion
    else simp_all [kerase_append_left]
```

**Review by Ruben-VandeVelde — APPROVED** [review]
LGTM

maintainer delegate

**Review by b-mehta — COMMENTED** [review]
Very nice, thank you! 

bors d+

**Comment by grunweg** [comment]
Let's try again, now that CI seems to have recovered:
bors merge
